US04622327
Preparation of 1-(chloromethyl-7,8-diethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride
Following the procedure described in Example 2 but using 1-[bis(chloromethyl)-methyl]-6,7-diethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride as a starting material, the aimed compound is obtained with a melting point of 130° to 131° C. (ethanol/ether).

reactant | 1-[bis(chloromethyl)-methyl]-6,7-diethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClCC(C1NCCC2=CC(=C(C=C12)OCC)OCC)CCl
solvent | ethanol ether | C(C)O.CCOCC
product | chloromethyl-7,8-diethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydrochloride | Yield: 75% | Cl.ClCC1CN2C1C1=CC(=C(C=C1CC2)OCC)OCC | InChI=1S/C16H22ClNO2.ClH/c1-3-19-14-7-11-5-6-18-10-12(9-17)16(18)13(11)8-15(14)20-4-2;/h7-8,12,16H,3-6,9-10H2,1-2H3;1H
